US07863300B2
4-[2-(5-Ethyl-pyridin-2-yl)-2-tosyl-ethoxy]-benzaldehyde (9, X═OTs)
0.44 g (0.0044 mol) triethyl amine was added to a solution of 1 g (0.0036 mol) 4-[2-(5-ethyl-pyridin-2-yl)-2-hydroxy-ethoxy]-benzaldehyde and 0.7 g (0.0036 mol) tosyl chloride dissolved in 25 mL dichloromethane at 0-5° C. Reaction mixture was stirred at 0-5° C. for 4 hr. Progress of the reaction was monitored by TLC and after completion of reaction, substantial work-up in excess water yielded the desired product. Yield of the product was 1 g (70%).

reactant | triethyl amine | 0.0044 mol, 0.44 g | C(C)N(CC)CC | C6H15N
reactant | 4-[2-(5-ethyl-pyridin-2-yl)-2-hydroxy-ethoxy]-benzaldehyde | 0.0036 mol, 1 g | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)O | C16H17NO3
reactant | tosyl chloride | 0.0036 mol, 0.7 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-[2-(5-Ethyl-pyridin-2-yl)-2-tosyl-ethoxy]-benzaldehyde | C(C)C=1C=CC(=NC1)C(COC1=CC=C(C=O)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C23H23NO4S
